US09340555B2
To a stirred suspension of 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid (100 mg, 0.22 mmol) in 10 ml of anhydrous tetrahydrofuran were added HATU (100 mg, 0.26 mmol) and N,N-diisopropylethylamine (85 mg, 0.66 mmol). The mixture was heated at 60° C. for 10 minutes, followed by addition of L-glutamic acid dimethyl ester hydrochloride (55 mg, 0.26 mmol). The mixture was heated at 60° C. for another 20 minutes, cooled to room temperature and poured into 100 ml of water with vigorous stirring. 1M HCl was added dropwise until pH=4. The precipitates were filtered, washed with water and dried in vacuo to give dimethyl (2S)-2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]pentanedioate as white solid. Yield: 126 mg, 94%.

reactant | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | 0.22 mmol, 100 mg | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C22H15F2N3O4S
reactant | HATU | 0.26 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.66 mmol, 85 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | L-glutamic acid dimethyl ester hydrochloride | 0.26 mmol, 55 mg | Cl.COC([C@@H](N)CCC(=O)OC)=O
reactant | HCl | 1M | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | dimethyl (2S)-2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]pentanedioate | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)N[C@H](C(=O)OC)CCC(=O)OC)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C29H26F2N4O7S
